US09029409B2
To a cold solution of N-(4-fluoro-3-methoxybenzyl)-6-(hydroxymethyl)-2-methylpyrimidine-4-carboxamide (7.23 g, 23.71 mmol, Preparation #7) in DCM (150 mL) was added Dess-Martin periodinane (16.10 g, 37.93 mmol, Spectrochem) portion wise over about 45 min at about 0° C. The resulting suspension was allowed to warm to RT and stirred for about another 2 h. The reaction mixture was re-cooled to about 0° C. and quenched with sodiumthiosulphate solution (150 mL) and stirred vigorously for about 30 min. The organic layer was separated, washed successively with saturated sodiumbicarbonate (1×100 mL), water (1×150 mL) and brine (1×150 mL), dried over sodium sulphate and concentrated under reduced pressure to afford N-(4-fluoro-3-methoxybenzyl)-6-formyl-2-methylpyrimidine-4-carboxamide 6.75 g (crude 94%), 1H NMR (400 MHz, DMSO): δ 9.99 (s, 1H), 9.586-9.556 (t, J=6.4 Hz, 1H), 8.09 (s, 1H), 7.18-7.11 (m, 2H), 6.90-6.87 (m, 1H), 4.495-4.479 (d, J=6.4 Hz, 2H), 3.81 (s, 3H), 2.84 (s, 3H), MS m/z: 304.2 (M+H)+.

reactant | N-(4-fluoro-3-methoxybenzyl)-6-(hydroxymethyl)-2-methylpyrimidine-4-carboxamide | 23.71 mmol, 7.23 g | FC1=C(C=C(CNC(=O)C2=NC(=NC(=C2)CO)C)C=C1)OC | C15H16FN3O3
reactant | Dess-Martin periodinane | 37.93 mmol, 16.10 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
product | N-(4-fluoro-3-methoxybenzyl)-6-formyl-2-methylpyrimidine-4-carboxamide | 6.75 g | FC1=C(C=C(CNC(=O)C2=NC(=NC(=C2)C=O)C)C=C1)OC | C15H14FN3O3
